US07563888B2
Methyl 5(S)-(4-fluorophenyl)-5-[tetrahydropyran-2(RS)-yloxy]pentanoate
4.23 ml (45 mmol) of 97% pure 3,4-dihydro-2H-pyran, followed by 762 mg (3.0 mmol) of pyridinium p-toluenesulfonate are added to a solution of 6.80 g (25.8 mmol) of methyl 5-(4-fluorophenyl)-5-(S)-hydroxypentanoate with a purity of 86 area % in 210 ml of dichloromethane in a 2-neck round-bottom flask with magnetic stirrer under nitrogen. The reaction mixture is stirred at room temperature for 24 h. HPLC analysis (system as in Example 5) shows besides pyridine (tret 4.8 min.) and 1.5 area % precursor (tret 9.8 min.), the product in the form of two diastereomers (ratio about 1:1, tret 14.1 and 14.4 min.). The reaction solution is concentrated to 70 ml in vacuo, diluted with 100 ml of diethyl ether and washed with 1×100 ml and 2×50 ml of water. The organic phase was concentrated in vacuo and the residue was dried under HV. 9.70 g of a pale yellowish oil which, according to HPLC, has a purity of 76 area % are obtained. Yield: 23.75 mmol, 92% of theory.

reactant | 3,4-dihydro-2H-pyran | 45 mmol, 4.23 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 3.0 mmol, 762 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | methyl 5-(4-fluorophenyl)-5-(S)-hydroxypentanoate | 25.8 mmol, 6.80 g | FC1=CC=C(C=C1)[C@H](CCCC(=O)OC)O | C12H15FO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 210 ml | ClCCl | CH2Cl2
product | Methyl 5(S)-(4-fluorophenyl)-5-[tetrahydropyran-2(RS)-yloxy]pentanoate | FC1=CC=C(C=C1)[C@H](CCCC(=O)OC)OC1OCCCC1 | C17H23FO4
